US05843942
A suspension of sodium hydride (50% dispersion 0.8 mmol, 38 mg) in DMF (2 ml) (sieve dried) was cooled to -5° C. and treated with methyl 2-(ethylamino)pyridine-5-carboxylate (0.145 g, 0.8 mmol). The reaction was stirred at -5° C. for 30 minutes and then treated with 5-bromo-2-(2-thienylmethoxy)benzyl bromide (0.29 g, 0.8 mmol) in DMF (0.5 ml). The reaction was allowed to warm to ambient temperature and stirred for 18 hours. The reaction was poured into saturated aqueous ammonium chloride. The combined organic extracts were washed once with brine, dried (MgSO4) and evaporated. The residue was purified by chromatography (eluant: diethyl ether/hexane) to give methyl 2-[N-(2-(2-thienylmethoxy)-5-bromobenzyl)N-ethylamino]pyridine-5-carboxylate as a colourless oil (0.03 g, 8%).

reactant | sodium hydride | 0.8 mmol, 38 mg | [H-].[Na+]
reactant | methyl 2-(ethylamino)pyridine-5-carboxylate | 0.8 mmol, 0.145 g | C(C)NC1=NC=C(C=C1)C(=O)OC | C9H12N2O2
reactant | 5-bromo-2-(2-thienylmethoxy)benzyl bromide | 0.8 mmol, 0.29 g | BrC=1C=CC(=C(CBr)C1)OCC=1SC=CC1 | C12H10Br2OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | methyl 2-[N-(2-(2-thienylmethoxy)-5-bromobenzyl)N-ethylamino]pyridine-5-carboxylate | 0.03 g, 8% | S1C(=CC=C1)COC1=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C=C(C=C1)Br | C21H21BrN2O3S
